US07846929B2
2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine (40 mg) was reacted with 27 μL of cyclopropanecarbonyl chloride via General Procedure G to give N-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)cyclopropanecarboxamide.

reactant | 2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine | 40 mg | ClC=1N=C(C2=C(N1)C=C(S2)N)N2CCOCC2 | C10H11ClN4OS
reactant | cyclopropanecarbonyl chloride | 27 μL | C1(CC1)C(=O)Cl | C4H5ClO
product | N-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)cyclopropanecarboxamide | ClC=1N=C(C2=C(N1)C=C(S2)NC(=O)C2CC2)N2CCOCC2 | C14H15ClN4O2S
